US07456200B2
Sodium hydride (60% oil dispersion, 1.24 g, 31.1 mmol) was added in portions to a solution of 3-chloroacetophenone (4.0 g, 25.9 mmol) and diethyl oxalate (4.54 g, 31.1 mmol) in DMF (32 ml) at 0° C. The mixture stirred at room temperature for 1 h and was then heated at 80° C. for a half an h. After cooling, the mixture was treated with 3N HCl and then diluted with ethyl acetate. The organic layer was washed with water (3×) and saturated brine, dried over anhydrous sodium sulfate, filtered and concentrated. The resulting residue was then purified by flash column chromatography on silica using 0-10% ethyl acetate in hexanes to afford of 4-(3-chloro-phenyl)-2,4-dioxo-butyric acid ethyl ester (4.43 g, 67%, yellow solid). 1H NMR (CDCl3) d (ppm): 15.12 (br s, 1H), 7.98 (s, 1H), 7.88 (d, 1H), 7.58 (d, 1H), 7.47 (t, 1H), 7.05 (s, 1H), 4.39 (m, 2H), 1.41 (m, 3H). Step 2: 5-(3-Chloro-phenyl)-isoxazole-3-carboxylic acid ethyl ester: A solution of 4-(3-chloro-phenyl)-2,4-dioxo-butyric acid ethyl ester (3.0 g, 11.8 mmol) and hydroxylamine hydrochloride (2.46 g, 35.4 mmol) in methanol (60 ml) was heated at 80° C. for 4 h. After cooling, the mixture was filtered and washed with cold methanol to afford 5-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethyl ester (2.0 g, 71%, white solid). 1H NMR (CDCl3) d (ppm): 7.82 (s, 1H), 7.72 (m, 1H), 7.47 (m, 2H), 4.03 (s, 3H). Mixture of both methyl and ethyl ester (mostly methyl). Step 3: 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethanone: In a screw cap vial equipped with stir bar added methyl magnesium iodide (3M in diethyl ether) (0.79 ml, 2.38 mmol), toluene (1 ml), tetrahydrofuran (0.39 ml, 4.77 mmol) and triethylamine (1 ml, 7.15 mmol). Cooled the solution down to 0° C. and to it added solution of 5-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethyl ester (300 mg, 1.19 mmol) in toluene (5 ml). Left the resulting mixture stirring at 0° C. for 5 h. Reaction mixture was quenched with 1N hydrochloric acid (aqueous, 6.5 ml, 6.5 mmol), diluted with toluene (35 ml), sequentially is washed with water (50 ml), saturated sodium bicarbonate (aqueous, 30 ml), water (50 ml) and brine (30 ml). The organic phase was concentrated, in-vacuo. The isolated residue was dissolved in methanol (8 ml) and 20% potassium hydroxide (aqueous, 1 ml). The mixture was stirred at 45° C. for 30 min. At this point the mixture was concentrated, in-vacuo. The isolated residue was dissolved in toluene (60 ml), sequentially washed with water (50 ml), saturated sodium bicarbonate (aqueous, 50 ml) and water (50 ml). The organic phase was concentrated, in-vacuo. The crude residue was purified on silica gel using 2% ethyl acetate in hexanes to isolate the desired compound as a white solid (156 mg, 60%). 1H-NMR (CDCl3), d (ppm): 7.77 (m, 1H), 7.66 (m, 1H), 7.42 (m, 2H), 6.90 (s, 1H), 2.69 (s, 3H). Step 4: 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethanol: In a screw cap vial equipped with stir bar added 1-[5-(3-chloro-phenyl)-isoxazol-3-yl]-ethanone (100 mg, 0.45 mmol), sodium borohydride (34 mg, 0.90 mmol) and methanol (3 ml). Left the resulting mixture stirring at room temperature for 3 h. Reaction was quenched with water (30 ml) and brine (30 ml), extracted with dichloromethane (3×30 ml). Combined organic phase was dried (sodium sulfate), filtered and concentrated, in-vacuo to isolate 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethanol as a white solid (110 mg). 1H-NMR (CDCl3), d (ppm): 7.69 (m, 1H), 7.59 (m, 1H), 7.37 (m, 2H), 6.59 (s, 1H), 5.07 (q, 1H), 3.45 (bs, 1H), 1.58 (d, 3H).

reactant | Sodium hydride | 31.1 mmol, 1.24 g | [H-].[Na+]
reactant | 3-chloroacetophenone | 25.9 mmol, 4.0 g | CC(=O)C1=CC(=CC=C1)Cl | C8H7ClO
reactant | diethyl oxalate | 31.1 mmol, 4.54 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 3N | Cl | ClH
solvent | DMF | 32 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-chloro-phenyl)-2,4-dioxo-butyric acid ethyl ester | 4.43 g, 67% | C(C)OC(C(CC(=O)C1=CC(=CC=C1)Cl)=O)=O | C12H11ClO4
